US08022062B2
4-Bromo-N-(tert-butoxycarbonyl)-3-fluoro-benzylamine:
Add 10% Pd/C (492 mg) and di-tert-butyl-dicarbonate (4.668 g, 21.4 mmol) to a solution of 4-azidomethyl-1-bromo-2-fluoro-benzene (4.92 g, 21.4 mmol) in ethanol (90 mL) and submit the mixture to hydrogenation at atmospheric pressure overnight. Filter the reaction mixture over Celite® and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (85:15) to obtain the desired intermediate as a solid (1.55 g, 25%).

reactant | di-tert-butyl-dicarbonate | 21.4 mmol, 4.668 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-azidomethyl-1-bromo-2-fluoro-benzene | 21.4 mmol, 4.92 g | N(=[N+]=[N-])CC1=CC(=C(C=C1)Br)F | C7H5BrFN3
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | Pd/C | 492 mg | [Pd] | Pd
product | 4-Bromo-N-(tert-butoxycarbonyl)-3-fluoro-benzylamine | 1.55 g, 25% | BrC1=C(C=C(CNC(=O)OC(C)(C)C)C=C1)F | C12H15BrFNO2
